US07321040B2
Ethyl-carbamic acid 2-(3-isopropyl-[1,2,4]triazolo[4,3-a]pyridin-6-ylsulfanyl)-benzyl ester
To a solution of [2-(3-Isopropyl-[1,2,4]triazolo[4,3-a]pyridin-6-ylsulfanyl)-phenyl]-methanol (45.0 mg, 0.15 mmol) in dichloromethane (1.5 mL) under nitrogen at ambient temperature was added ethyl isocyanate (12.0 μL, 0.15 mmol). The reaction was heated to 50° C. for 1 hour. The reaction was cooled, ethyl isocyanate added (30 μL, 0.38 mmol), and stirred at ambient temperature for 16 hours. The reaction was concentrated in vacuo to an oil. The residue was triturated from ether to give the title compound (45 mg, 82%). MS (M+1)=371.4.

reactant | [2-(3-Isopropyl-[1,2,4]triazolo[4,3-a]pyridin-6-ylsulfanyl)-phenyl]-methanol | 0.15 mmol, 45.0 mg | C(C)(C)C1=NN=C2N1C=C(C=C2)SC2=C(C=CC=C2)CO | C16H17N3OS
reactant | ethyl isocyanate | 0.15 mmol, 12.0 μL | C(C)N=C=O | C3H5NO
solvent | dichloromethane | 1.5 mL | ClCCl | CH2Cl2
product | Ethyl-carbamic acid 2-(3-isopropyl-[1,2,4]triazolo[4,3-a]pyridin-6-ylsulfanyl)-benzyl ester | 45 mg, 82% | C(C)(C)C1=NN=C2N1C=C(C=C2)SC2=C(COC(NCC)=O)C=CC=C2 | C19H22N4O2S
